US07446122B2
55.B. Synthesis of Ethyl 3-(1-Ethyl-1,3,4,9-tetrahydro-1-(2-hydroxyethyl)-8-isopropylpyrano[3,4-b]indol-6-yl)propanoate
To a suspension of (E)-ethyl 3-(1-ethyl-1,3,4,9-tetrahydro-1-(2-hydroxyethyl)-8-isopropylpyrano[3,4-b]indol-6-yl)acrylate (0.8 g, 2.3 mmol) in 2% HCl in EtOH (80 ml) was added palladium on carbon (10%, 0.5 g). The mixture was stirred under an atmosphere of hydrogen (1 am) at room temperature for 24 hr. The catalyst filtered through celite. The filtrate was evaporated at reduced pressure. The residue was neutralized with sat. NaHCO3, extracted with EtOAc, and dried over MgSO4. The solvent was concentrated under reduced pressure and purified by silica gel flash column chromatography hexane/EtOAc (6:4) to give the product (0.33 g, 38%). 1H NMR (300 MHz, CDCl3) δ 7.72 (br, NH), 7.18 (d, 1H), 6.91 (d, 1H), 4.15 (qrt, 2H), 4.02 (m, 2H), 3.70 (m, 2H), 3.17 (m, 1H), 3.04 (t, 2H), 2.83 (m, 1H), 2.68 (m, 3H), 2.18 (m, 1H), 2.05 (m, 1H), 1.96 (m, 2H), 1.36 (d, 6H), 1.26 (t, 3H), 0.94 (t, 3H); ESI (+) MS m/e=388 (MH+), ESI (−) MS m/e=386 (MH−).

reactant | (E)-ethyl 3-(1-ethyl-1,3,4,9-tetrahydro-1-(2-hydroxyethyl)-8-isopropylpyrano[3,4-b]indol-6-yl)acrylate | 2.3 mmol, 0.8 g | C(C)C1(OCCC2=C1NC1=C(C=C(C=C21)/C=C/C(=O)OCC)C(C)C)CCO | C23H31NO4
solvent | HCl | Cl | ClH
solvent | EtOH | 80 ml | CCO | C2H6O
catalyst | palladium on carbon | 0.5 g | [Pd] | Pd
product | Ethyl 3-(1-Ethyl-1,3,4,9-tetrahydro-1-(2-hydroxyethyl)-8-isopropylpyrano[3,4-b]indol-6-yl)propanoate | 0.33 g, 38% | C(C)C1(OCCC2=C1NC1=C(C=C(C=C21)CCC(=O)OCC)C(C)C)CCO | C23H33NO4
